US05212287
Preparation of N-Carbobenzoxy-β-Benzyl-L-Aspartic Acid p-Nitrophenyl Ester
N-carbobenzoxy-β-benzyl-L-aspartic acid (12 Kg) and p-nitrophenol (5.1 Kg) are dissolved in ethyl acetate (20-30 L) and the solution is cooled to below 5° C. Dicyclohexyl-carbodiimide (7.6 Kg) is dissolved in ethyl acetate (8-12 L) and added, maintaining the temperature below 5° C. The solution is stirred at reduced temperature for two hours and then for three hours at 20°-30° C. The dicyclohexylurea byproduct is removed by filtration and washed with ethyl acetate (20-30 L). The filtrate is concentrated in vacuo below 60° C. The concentrate is dissolved in a mixture of hot isopropyl alcohol (25-40 L) and distilled water (2-5 L) and cooled below 25° C. The solids are collected on a filter, rinsed with isopropyl alcohol and dried below 40° C. Melting point=76°-79° C.; specific rotation=-15° to 18° (C=1, DMF).

reactant | N-carbobenzoxy-β-benzyl-L-aspartic acid | 12 Kg | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C(=O)O)CC1=CC=CC=C1)C(=O)O | C19H19NO6
reactant | p-nitrophenol | 5.1 Kg | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | Dicyclohexyl-carbodiimide | 7.6 Kg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ethyl acetate | 20-30 L | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 8-12 L | C(C)(=O)OCC | C4H8O2
product | N-Carbobenzoxy-β-Benzyl-L-Aspartic Acid p-Nitrophenyl Ester | [N+](=O)([O-])C1=CC=C(C=C1)OC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C(=O)O)CC1=CC=CC=C1)=O | C25H22N2O8
